US06984646B2
4-(4-Fluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 20 with 450 mg (1.74 mmol) of 1-(4-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone (example XXXXIV), 188.2 mg (3.84 mmol) of sodium methylate and 146.5 mg (1.74 mmol) methyl propiolate.

reactant | 1-(4-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone | 1.74 mmol, 450 mg | FC1=CC=C(C=C1)C(CC1=NC2=C(N1)CCCC2)=O | C15H15FN2O
reactant | sodium methylate | 3.84 mmol, 188.2 mg | C[O-].[Na+]
reactant | methyl propiolate | 1.74 mmol, 146.5 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(4-Fluorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | FC1=CC=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=C1 | C18H15FN2O2
